US07977364B2
cycloheptyl (2-fluoro-4-hydroxyphenyl)methanone
Using the same procedure but replacing 1-adamantyl carbonyl chloride by cycloheptane carbonyl chloride and 3-fluorophenol by 3-fluoroanisole, the following compound was obtained:

reactant | cycloheptane carbonyl chloride | C1(CCCCCC1)C(=O)Cl | C8H13ClO
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | 3-fluoroanisole | FC=1C=C(C=CC1)OC | C7H7FO
product | cycloheptyl (2-fluoro-4-hydroxyphenyl)methanone | C1(CCCCCC1)C(=O)C1=C(C=C(C=C1)O)F | C14H17FO2
